US06002002
N-isopropyl-N'-(2-hydroxy-3-piperidino-propoxy)-urea
O-(2-hydroxy-3-piperidino-propyl)-hydroxylamine (1,74 g, 0,01 mol) was dissolved in 25 ml abs. chloroform and under stirring, 0,98 ml (0,01 mol) isopropyl isocyanate was added. The reaction was monitored by chromatography. At the end of the reaction the solution was evaporated and the oily residue purified by column chromatography. The oil thus obtained was crystallized with methanol-ether.

reactant | O-(2-hydroxy-3-piperidino-propyl)-hydroxylamine | 0,01 mol, 1,74 g | OC(CON)CN1CCCCC1 | C8H18N2O2
reactant | isopropyl isocyanate | 0,01 mol, 0,98 ml | C(C)(C)N=C=O | C4H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-isopropyl-N'-(2-hydroxy-3-piperidino-propoxy)-urea | C(C)(C)NC(=O)NOCC(CN1CCCCC1)O | C12H25N3O3
